US07494994B2
Step A: 1-[(3-Bromophenyl)sulphonyl]piperidine
Identical procedure to Step A of Example 1, starting from 3-bromobenzenesulphonyl chloride and piperidine.

reactant | 3-bromobenzenesulphonyl chloride | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-[(3-Bromophenyl)sulphonyl]piperidine | BrC=1C=C(C=CC1)S(=O)(=O)N1CCCCC1 | C11H14BrNO2S
